US04127729
A mixture of 2-methyleneglutaric acid [Ber. 34, 427 (1901)] (40 g.) and acetyl chloride (80 ml.) is heated on the steam bath for 1.5 hours. The excess acetyl chloride is removed in vacuo (75°) and the residue is evaporated from toluene twice. Finally, the residue is dissolved in ethanol and heated on the steam bath for one hour. The reaction mixture is concentrated to dryness to yield 2-methylene-4-(ethoxycarbonyl)butyric acid.

reactant | 2-methyleneglutaric acid | 40 g | C=C(C(=O)O)CCC(=O)O | C6H8O4
reactant | acetyl chloride | 80 ml | C(C)(=O)Cl | C2H3ClO
product | 2-methylene-4-(ethoxycarbonyl)butyric acid | C=C(C(=O)O)CCC(=O)OCC | C8H12O4
